US03987160
4-Amino-2-(3-benzylphenyl)-5-nitrosopyrimid-6-one (11.95 g.) was suspended in water (250 ml.), and triethylamine (20 ml.) was added, giving a purple-red solution. Sodium dithionite (12 g.) was added in portions during 30 minutes with shaking and heating at 60° C. After cooling, the mixture was extracted three times with chloroform, and the combined extracts were dried over magnesium sulphate and evaporated to give crude 4,5-diamino-2-(3-benzylphenyl)pyrimid-6-one (11.1 g.), sufficiently pure to use in the above preparation of 8-aza-2-(3-benzylphenyl)purin-6-one.

reactant | 4-Amino-2-(3-benzylphenyl)-5-nitrosopyrimid-6-one | 11.95 g | NC=1N=C(NC(C1N=O)=O)C1=CC(=CC=C1)CC1=CC=CC=C1 | C17H14N4O2
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | Sodium dithionite | 12 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 250 ml | O | H2O
product | 4,5-diamino-2-(3-benzylphenyl)pyrimid-6-one | 11.1 g | NC=1N=C(NC(C1N)=O)C1=CC(=CC=C1)CC1=CC=CC=C1 | C17H16N4O
